US08536187B2
3-Aminomethyl-N-tert-butyl-5-trifluoromethyl-benzenesulfonamide was synthesized in a manner analogous to 4-Aminomethyl-N-tert-butyl-3-methyl-benzenesulfonamide in Example 4, using 3-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride in place of 4-bromo-3-methylbenzene-1-sulfonyl chloride. In the second step NMP was used as the solvent, Pd(dppf)Cl2 alone was used as catalyst and the reaction mixture was stirred at 150° C. for 30 min.

reactant | 4-Aminomethyl-N-tert-butyl-3-methyl-benzenesulfonamide | NCC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)C | C12H20N2O2S
reactant | 3-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride | BrC=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
reactant | NMP | CN1CCCC1=O | C5H9NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Aminomethyl-N-tert-butyl-5-trifluoromethyl-benzenesulfonamide | NCC=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC(C)(C)C | C12H17F3N2O2S
